US04812467
1.1. [4-(Benzylthio)phenyl]-(3,5-dichloro-2-hydroxyphenyl)methanone
The residue is dissolved with 200 ml of dimethyl sulphoxide, 32 g of (3,5-dichloro-2-hydroxyphenyl)-(4-fluorophenyl)methanone are added and the mixture is heated to 100° C. for 8 hours under argon.

reactant | (3,5-dichloro-2-hydroxyphenyl)-(4-fluorophenyl)methanone | 32 g | ClC=1C(=C(C=C(C1)Cl)C(=O)C1=CC=C(C=C1)F)O | C13H7Cl2FO2
reactant | dimethyl sulphoxide | 200 ml | CS(=O)C | C2H6OS
product | [4-(Benzylthio)phenyl]-(3,5-dichloro-2-hydroxyphenyl)methanone | C(C1=CC=CC=C1)SC1=CC=C(C=C1)C(=O)C1=C(C(=CC(=C1)Cl)Cl)O | C20H14Cl2O2S
